US06677368B2
To a solution of 3-piperidin-1-yl-propionic acid (472 mg, 3 mmol) in DCM (15 mL) at 0° C. was added oxalyl chloride (4.5 mmol) followed by one drop of DMF. After stirring for 2 hours at rt, the solvent was removed to give 3-piperidin-1-yl-propionyl chloride as a white solid. To a solution of 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine (347 mg, 2.55 mmol) in DCM (10 mL) was added TEA (1 eq.) and 1-piperidinepropionic acid chloride. The mixture was stirred at rt for overnight. The reaction was diluted with DCM, washed with NaHCO3, brine, dried and concentrated. The residue was purified on a silica gel column to give 230 mg of 3-piperidin-1-yl-1-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepin-4-yl)-propan-1-one as a light brown gel.

reactant | 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine | 2.55 mmol, 347 mg | N1C=CC=2NCCCCC21 | C8H12N2
reactant | 1-piperidinepropionic acid chloride | N1(CCCCC1)CCC(=O)Cl | C8H14ClNO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-piperidin-1-yl-1-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepin-4-yl)-propan-1-one | 230 mg | N1(CCCCC1)CCC(=O)N1C2=C(CCCC1)NC=C2 | C16H25N3O
